US05646265
2'-O-Pentylcytidine
Cytidine (10 g, 0.041 mol), sodium hydride (2.4 g, 1.5 eq), bromopentane (7.6 ml, 1.5 eq.) in DMSO (90 ml) were reacted as per the procedure of Example 71, Step 1 to yield the 2' and 3' isomers as a foam (7.6 g).

reactant | Cytidine | 0.041 mol, 10 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | sodium hydride | 2.4 g, 1.5 eq | [H-].[Na+]
reactant | bromopentane | 7.6 ml, 1.5 eq. | BrCCCCC | C5H11Br
solvent | DMSO | 90 ml | CS(=O)C | C2H6OS
product | 2'-O-Pentylcytidine | 7.6 g | C(CCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C14H23N3O5
